US06462069B2
Hydrogenation of [5-(4-cyclohex-1-enyl-thiophen-3-yl)-1-H-pyrazol-3-yl]-phenylamine (50 mg, 0.156 mmol) was carried out using 10% palladium on activated carbon (˜20 mg) in methanol (5 mL) and acetic acid (0.5 mL) under a balloon of hydrogen. After stirring for 16 h, the reaction was filtered through Celite. The filtrate was diluted with ether (50 mL), washed with saturated NaHCO3 solution (2×25 mL) and brine (25 mL), dried (Na2SO4), and concentrated in vacuo. Purification by silica gel chromatography gave 29 mg (58%) of [5-(4-cyclohexyl-thiophen-3-yl)-1-H-pyrazol-3-yl]-phenylamine as a white solid.

reactant | [5-(4-cyclohex-1-enyl-thiophen-3-yl)-1-H-pyrazol-3-yl]-phenylamine | 0.156 mmol, 50 mg | C1(=CCCCC1)C=1C(=CSC1)C1=CC(=NN1)NC1=CC=CC=C1 | C19H19N3S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | ˜20 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | [5-(4-cyclohexyl-thiophen-3-yl)-1-H-pyrazol-3-yl]-phenylamine | 29 mg, 58% | C1(CCCCC1)C=1C(=CSC1)C1=CC(=NN1)NC1=CC=CC=C1 | C19H21N3S
